US07399867B2
4-Bromo-1-methanesulfonyl-2-trifluoromethyl-benzene
Combine 4-bromo-1-methylsulfanyl-2-trifluoromethyl-benzene (3.6 g, 15 mmol), mCPBA (7.7 g, 30 mmol) and dichloromethane (100 mL). Stir for 2 hours. Dilute with dichloromethane (300 mL) and water (100 mL). Separate the organic layer and wash with aqueous, saturated NaHCO3 (2×100 mL) and brine (100 mL). Dry with MgSO4, filter and concentrate in vacuo. Wash the solid with diethyl ether (2×10 mL) and dichloromethane (10 mL) to give 2.06 g of the title compound (44%).

reactant | 4-bromo-1-methylsulfanyl-2-trifluoromethyl-benzene | 15 mmol, 3.6 g | BrC1=CC(=C(C=C1)SC)C(F)(F)F | C8H6BrF3S
reactant | mCPBA | 30 mmol, 7.7 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-Bromo-1-methanesulfonyl-2-trifluoromethyl-benzene | 2.06 g, 44% | BrC1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F | C8H6BrF3O2S
